US07378525B2
5-Chlorosulfonyl-naphthalene-1-carboxylic acid (45)
The titled compound was prepared using a modified procedure of Reefschlager et al. (see Reefschlager, J., et al., (2000) EP1038868A2). Naphthalene-1-carboxylic acid (6.56 g, 38.1 mmol) was added in small portions to chlorosulfonic acid (22 g, 12.6 mL, 190 mmol) that was cooled in an ice bath. The reaction was stirred overnight at room temperature. The reaction mixture was poured slowly over ice-water (250 mL) and filtered to afford 45 (8.3 g, 80%) as a white solid. 1H NMR (300 MHz, d6-DMSO) δ 14.0 (s, 1H), 9.11 (d, 1H), 8.80 (d, 1H), 8.08 (d, 1H), 8.00 (d, 1H), 7.56 (m, 2H).

reactant | Naphthalene-1-carboxylic acid | 38.1 mmol, 6.56 g | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | chlorosulfonic acid | 190 mmol, 12.6 mL, 22 g | ClS(=O)(=O)O | ClHO3S
product | 5-Chlorosulfonyl-naphthalene-1-carboxylic acid | 8.3 g, 80% | ClS(=O)(=O)C1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7ClO4S
